Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.58509158129
[H:1][C:2][O:3][C:4]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.58483257438
[C:1]=[C:2]([O:3][H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:5](=[O:6])[C:7]([H:8])([H:9])[H:10].[O:3][H:4],4.485052508440001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11].[O:12][H:13],6.32204390498
[H:1][C:2]([H:3])[C:5][O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.3421638645900003
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[H:12].[H:1][O:2]/[C:3]=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.43674077566
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])[H:5],4.61982817074
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],2.27506554741
[H:1][O:2][C:3][O:4][C:5](=[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2][C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.159436625
[O:1]=[C:2]=[C:6]([C:5]#[C:3][H:4])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]1[C@:3]2([H:4])[C:5][C@:6]12[C:7]([H:8])([H:9])[H:10],2.15625828218
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:5],3.82483710583
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[H:1][C:2]#[C:3][O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10].[H:4],2.17930891577
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([C:4]([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-0.9687254077
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],1.78691312545
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][O:8][C:9]([H:10])([H:11])[H:12].[H:6],1.64219191184
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]#[C:8][H:9]>>[C:3]([O:4][H:5])[O:6][C:7]#[C:8][H:9].[H:1][C:2],6.08477084278
[H:1][C:2]1([H:3])[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],1.4177102548500002
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]#[C:8][H:9]>>[C:7]#[C:8][H:9].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6],8.00945705299
[C:4]([H:5])([H:6])=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-2.99578399959
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.4507837815199993
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],3.8592851431
[C:1]#[C:2][C:3]#[C:4][C:5][O:6][H:7]>>[C:1]#[C:2].[C:3]#[C:4][C:5][O:6][H:7],7.1554179102
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],-8.04281998278
[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-5.323435755909999
[H:1].[O:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.50657011744
[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])([H:9])[H:10].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-3.99075883758
[C:1][O:2][C:3]#[C:4].[O:5]>>[C:1][O:2][C:3]=[C:4]=[O:5],-7.028741798139999
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])([H:4])[C:5],3.53877239165
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],3.63692068706
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:2][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1][C:5]#[C:3][H:4],1.7507008185900004
